US07951963B2
To 5 mL of 1,2-dimethoxyethane was suspended 2.95 g of sodium borohydride, to which were dropwise added 1,2-dimethoxyethane (25 mL) solution of 10 g of (1-benzothiophen-5-yl)acetic acid, and 11 mL of 6.9 mol/L hydrochloride/1,2-dimethoxyethane solution, which was then stirred at room temperature for 1 hour. To this reaction mixture was dropwise added 5 mL of acetone, which was then stirred for 30 minutes. Thereto were added 20 mL of water, 30 mL of toluene and 2 mL of 2 mol/L hydrochloric acid. Next, after the pH was adjusted to 9.5 with 20 mL of 2 mol/L sodium hydroxide aqueous solution, the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate, followed by distilling off the solvent. Thereto were added cyclohexane and toluene. The precipitate was collected by filtration to provide 7.84 g of 2-(1-benzothiophen-5-yl)ethanol as white solid form.

reactant | sodium borohydride | 2.95 g | [BH4-].[Na+]
reactant | (1-benzothiophen-5-yl)acetic acid | 10 g | S1C=CC2=C1C=CC(=C2)CC(=O)O | C10H8O2S
reactant | hydrochloride 1,2-dimethoxyethane | 6.9 mol/L, 11 mL | Cl.COCCOC
reactant | hydrochloric acid | 2 mol/L, 2 mL | Cl | ClH
reactant | sodium hydroxide | 2 mol/L, 20 mL | [OH-].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 mL | O | H2O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | 1,2-dimethoxyethane | 25 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
product | 2-(1-benzothiophen-5-yl)ethanol | 7.84 g | S1C=CC2=C1C=CC(=C2)CCO | C10H10OS
